US07910613B2
67: N-[5-(3-Ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-yl]-isobutyramide
Prepared from 5-(3-ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-ylamine and isobutyryl chloride.

reactant | 5-(3-ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-ylamine | C(C)C1=NOC(=N1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C13H12N4OS
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
product | N-[5-(3-Ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-yl]-isobutyramide | C(C)C1=NOC(=N1)C1=C(N=C(S1)NC(C(C)C)=O)C1=CC=CC=C1 | C17H18N4O2S
